ShakeSense A2 supporting circuit: usb_cc_0p01
Vhost src 0 5
Rrp src cc 56000
Rrd cc 0 5151.0
Ccc cc 0 100p
.tran 1n 20u
.measure tran cc_voltage FIND v(cc) AT=19u

.end
